US07365193B2
2-Iodoxanthen-9-one
A solution of xanthen-9-one (1.96 g, 10.0 mmol; Aldrich) in trifluoroacetic acid-CH2Cl2 (1:1, 40 mL) was chilled to 0° C. and treated with N-iodosuccinimide (NIS; 2.25 g, 10.0 mmol; Lancaster), added portionwise over 1 h. After an additional 1 h at 0° C., the ice bath was removed and stirring continued for 8 h. Residual oxidant was quenched with aq. NaS2O3 and the mixture was extracted with CH2Cl2. The organic phase was washed with NaHCO3, dried over MgSO4, and the residue purified by flash chromatography (120 g silica gel, 10-100% CH2Cl2-hexanes) to afford the title compound (1.75 g, 5.43 mmol; 54% yield): 1H NMR (300 MHz, CDCl3) δ ppm 8.66 (d, J=2 Hz, 1H), 8.34 (dd, J=8, 2 Hz, 1H), 7.98 (dd, J=9, 2 Hz, 1H), 7.75 (ddd, J=9, 7, 2 Hz, 1H), 7.50 (dd, J=8, 1 Hz, 1H), 7.40 (ddd, J=8, 7, 1 Hz, 1H), 7.28 (d, J=9 Hz, 1H); MS (DCl/NH3) m/z 323 (M+H)+, 340 (M+NH4)+.

reactant | xanthen-9-one | 10.0 mmol, 1.96 g | C1=CC=CC=2OC3=CC=CC=C3C(C12)=O | C13H8O2
reactant | N-iodosuccinimide | 10.0 mmol, 2.25 g | IN1C(CCC1=O)=O | C4H4INO2
solvent | trifluoroacetic acid CH2Cl2 | 40 mL | FC(C(=O)O)(F)F.C(Cl)Cl
product | 2-Iodoxanthen-9-one | 5.43 mmol, 1.75 g, 54% yield | IC1=CC=2C(C3=CC=CC=C3OC2C=C1)=O | C13H7IO2
